US07435747B2
(a) 3,5-Dihydroxy-benzoic acid allyl ester
To 1.5 g of 3,5-dihydroxybenzoic acid in screw-capped vial was added 10 g of allyl alcohol and the vial was closed and cooled to −20° C. To the cold contents of the reaction vial was added 5 mL of trimethylsilyl chloride via syringe through a septum. The reaction vial was allowed to warm to room temperature and agitated for 16 hours. The vial was opened carefully and its contents transferred to a round-bottomed flask. The solvent was removed under reduced pressure and the residual solid was dried under reduced pressure over potassium hydroxide pellets for 12 h. The semisolid product was used in the subsequent synthetic steps without further purification. The product was analyzed by HPLC and had a retention time of 3.65 on 5 cm C18 reversed phase column with flow rate of 2.5 mL/min of pure acetonitrile (for solvent A) and 0.1% aqueous trifluroacetic acid (for solvent B). The product was characterized by 1H NMR (DMSO-d6, 350 MHz): δ=6.87 (s, 2H, aromatic); 6.44 (s, 1H, aromatic); 5.85-5.96 (m, 1H); 5.16-5.33 (m, 2H); 4.65-4.67(dd, 2H).

reactant | 3,5-dihydroxybenzoic acid | 1.5 g | OC=1C=C(C(=O)O)C=C(C1)O | C7H6O4
reactant | allyl alcohol | 10 g | C(C=C)O | C3H6O
reactant | trimethylsilyl chloride | 5 mL | C[Si](C)(C)Cl | C3H9ClSi
product | 3,5-Dihydroxy-benzoic acid allyl ester | C(C=C)OC(C1=CC(=CC(=C1)O)O)=O | C10H10O4
